US05006570
Step III - Preparation of Methyl 2-acetoxy-3-allyl-4-methylbenzoate-Intermediate (F-1)
351 g of acetic anhydride followed by 2.5 ml of sulphuric acid (d=1.84) in small amounts, and finally, 355 g of methyl 2-hydroxy-3-allyl-4-methylbenzoate were introduced into a 2-liter round-bottomed flask. The temperature rose up to 35° C. The contents were heated under reflux for 3 hours and the solution obtained was then poured into 2 liters of iced water. The oily layer formed was decanted and extracted with ether and the solution containing ether was dried over sodium sulphate.

reactant | acetic anhydride | 351 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulphuric acid | 2.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | methyl 2-hydroxy-3-allyl-4-methylbenzoate | 355 g | OC1=C(C(=O)OC)C=CC(=C1CC=C)C | C12H14O3
solvent | water | 2 liters | O | H2O
product | Methyl 2-acetoxy-3-allyl-4-methylbenzoate | C(C)(=O)OC1=C(C(=O)OC)C=CC(=C1CC=C)C | C14H16O4
